US06528510B1
4-tert-Butyl-5-thiocyanato-benzene-1,2-diamine
5-tert-Butyl-2-nitro-4-thiocyanato-phenylamine (prepared in Example QQ-2; 3 g, 12 mmol) was hydrogenated using Raney nickel (0.75 g) in the presence of hydrogen as described in General Method 3. MS(APCI): 222(M+H).

reactant | 5-tert-Butyl-2-nitro-4-thiocyanato-phenylamine | 12 mmol, 3 g | C(C)(C)(C)C=1C(=CC(=C(C1)N)[N+](=O)[O-])SC#N | C11H13N3O2S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.75 g | [Ni] | Ni
product | 4-tert-Butyl-5-thiocyanato-benzene-1,2-diamine | C(C)(C)(C)C=1C=C(C(=CC1SC#N)N)N | C11H15N3S
